US07351719B2
137a) (4′-chloro-biphenyl-4-yloxy)-acetic acid
1.5 mL TFA was added to a solution of 0.750 g (2.000 mmol) tert-butyl (4′-chloro-biphenyl-4-yloxy)-acetate in 20 mL dichloromethane and the mixture was stirred for 16 h at RT. The reaction mixture was evaporated down i. vac. and diluted with 1 M aqueous NaOH and EtOAc. The precipitate was filtered off and dried at 80° C. i. vac.

reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl (4′-chloro-biphenyl-4-yloxy)-acetate | 2.000 mmol, 0.750 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)OCC(=O)OC(C)(C)C | C18H19ClO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (4′-chloro-biphenyl-4-yloxy)-acetic acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)OCC(=O)O | C14H11ClO3
